US07772244B2
(R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (78 mg, 0.10 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 6 mL) and stirred at room temperature for 2 h. The reaction was concentrated and purified by column chromatography (5:95:1 methanol/dichloromethane/triethylamine). The residue was dissolved in 10% methanol/dichloromethane and passed through a plug of basic alumina to give 40.1 mg (62%) as a white solid. 1H-NMR (CD3OD, 500 MHz) δ −0.20-0.30 (m, 0.6H), 0.80-1.20 (m, 0.7H), 1.40-2.35 (m, 16H), 2.45-2.83 (m, 6H), 2.90-3.48 (m, 5H), 4.00-4.83 (m, 7H), 5.71 (m, 0.3H), 5.79 (dd, J=9.5, 6.1, 0.7H), 7.00-7.25 (m, 3H), 7.25-7.41 (m, 1H), 7.69 (bs, 1H), 8.22 (bs, 1H). Mass spec.: 646.50 (MH)+.

reactant | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.10 mmol, 78 mg | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C41H58FN7O5Si
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC=1C=C2C=NNC2=C(C1)C | C35H44FN7O4
